US04438128
1-Phenoxy-3-[2-(pyrazolo[3,4-d]pyrimidin-4-ylamino)-ethylamino]-propan-2-ol
3.2 g. Phenyl glycidyl ether and 5.9 g. 4-(2-aminoethylamino)-pyrazolo[3,4-d]pyrimidine are stirred in 100 ml. methanol for 24 hours at ambient temperature and then for 5 hours at 80° C. Solid material (0.8 g.) is then filtered off with suction, the filtrate is evaporated and the yellowish oil obtained is dissolved in methylene chloride-methanol (9:1 v/v) and purified chromatographically in the manner described in Example 50. There is obtained 1.8 g. (26% of theory) of the desired product in the form of colorless crystals; m.p. 142°-144° C., after recrystallization from ethanol.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 4-(2-aminoethylamino)-pyrazolo[3,4-d]pyrimidine | NCCNC1=C2C(=NC=N1)NN=C2 | C7H10N6
reactant | methanol | CO | CH4O
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 1-Phenoxy-3-[2-(pyrazolo[3,4-d]pyrimidin-4-ylamino)-ethylamino]-propan-2-ol | yield of 55% | O(C1=CC=CC=C1)CC(CNCCNC1=C2C(=NC=N1)NN=C2)O | C16H20N6O2
